US07632838B2
tert-butyl piperazine-1-carboxylate (3.0 g, 16.11 mmol) and 2-chloro-3-trifluoromethyl pyridine (2.93 g, 16.11 mmol) charged to a microwave vial was added with diisopropylethylamine (7.05 mL, 40.28 mmol) and DMF (1.0 mL). The reaction mixture was subject to microwave irradiation at 160° C. for 30 minutes. The reaction mixture was partitioned between EtOAc and water, organic layer washed with brine and dried over Na2SO4. The crude product obtained by solvent evaporation was purified via flash column chromatography. 4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester was obtained in 33.9% yield (1.81 g) as light yellow oil.

reactant | tert-butyl piperazine-1-carboxylate | 16.11 mmol, 3.0 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 2-chloro-3-trifluoromethyl pyridine | 16.11 mmol, 2.93 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | diisopropylethylamine | 40.28 mmol, 7.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-carboxylic acid tert-butyl ester | 33.9% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C15H20F3N3O2
